US09056859B2
A mixture of compound 5-bromo-2-fluoro-4-methoxybenzonitrile (10.0 mmol), allyl-tributyl-stannane (12.0 mmol), LiCl (20.0 mmol) and Pd(PPh3)4 (0.2 g) in anhydrous toluene was refluxed under N2 overnight. Distilled off the solvent under reduce pressure, the residue was purified with silica gel cloumn chromatography to give the product 2-fluoro-4-methoxy-5-(prop-2-en-1-yl)benzonitrile.

reactant | 5-bromo-2-fluoro-4-methoxybenzonitrile | 10.0 mmol | BrC=1C(=CC(=C(C#N)C1)F)OC | C8H5BrFNO
reactant | allyl-tributyl-stannane | 12.0 mmol | C(C=C)[Sn](CCCC)(CCCC)CCCC
reactant | LiCl | 20.0 mmol | [Li+].[Cl-]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-fluoro-4-methoxy-5-(prop-2-en-1-yl)benzonitrile | FC1=C(C#N)C=C(C(=C1)OC)CC=C | C11H10FNO
